US05962529
[Octyl-(toluene-4-sulfonyl)amino]-acetic acid tert-butyl ester
N-Octyl-toluene-4-sulfonamide (7.0 g, 0.025 mol) was dissolved in dry THF (200 ml) and cooled to -78° C. A 1 M solution of LHMDS in THF (27.2 ml, 0.028 mol) was then added over 10 minutes. The reaction mixture was allowed to warm to -40° C. with stirring over 30 minutes. Neat tert-butyl bromoacetate (4.8 ml, 0.03 mol) was added over 5 minutes and the reaction mixture was allowed to warm to ambient temperature overnight. The reaction mixture was diluted with saturated aqueous NH4Cl (200 ml) and ethyl acetate (200 ml). The organic layer was separated and washed consecutively with 1 M HCl, 0.5M Na2CO3 and brine, dried over Na2SO4, filtered and concentrated in vacuo. The resulting crude oil was purified by flash chromatography (silica gel, 6% ethyl acetate in hexane) to give the title compound as a white solid (5.2 g, 53%). 1H NMR: δ (CDCl3), 7.72 (2H, d, J=8.3 Hz), 7.27 (2H, d, J=8.4 Hz), 3.94 (2H, s), 3.23 (2H, dd, J=7.5, 7.6 Hz), 2.42 (3H, s), 1.60-1.42 (2H, m), 1.39, (9H, s), 1.34-1.17 (10H, m), 0.88 (3H, t, J=6.9 Hz).

reactant | N-Octyl-toluene-4-sulfonamide | 0.025 mol, 7.0 g | C(CCCCCCC)NS(=O)(=O)C1=CC=C(C=C1)C | C15H25NO2S
reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | tert-butyl bromoacetate | 0.03 mol, 4.8 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | NH4Cl | 200 ml | [NH4+].[Cl-]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 0.028 mol, 27.2 ml | C1CCOC1 | C4H8O
product | [Octyl-(toluene-4-sulfonyl)amino]-acetic acid tert-butyl ester | 5.2 g, 53% | C(C)(C)(C)OC(CN(S(=O)(=O)C1=CC=C(C=C1)C)CCCCCCCC)=O | C21H35NO4S
